US04892872
A solution of 4.8 g of 6-chloro-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid in 100 ml of tetrahydrofuran and 10 ml of dimethylformamide is cooled to below 0° C. and 5 ml of triethylamine is added under stirring thereto. Further, 2.5 g of ethyl chlorocarbonate is added and the mixture is stirred at room temperature for 45 minutes. To the resultant mixture is added 3.0 g of 3-amino-8-methyl-8-azabicyclo[3.2.1]octane and the mixture stirred for 4 hours. After completion of the reaction, aqueous sodium hydrogen carbonate and ethyl acetate are added. The organic layer is separated, washed with water and dried over magnesium sulfate. The solvent is distilled off and the residue is converted into the corresponding hydrochloride by treating with ethanolic hydrochloric acid followed by recrystallizing from ethanol-water to give 6-chloro-3,4-dihydro-2-methyl-N-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-3-oxo-2H-1,4-benzoxazine-8-carboxamide hydrochloride, melting at 325°-328° C. with decomposition.

reactant | 6-chloro-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 4.8 g | ClC=1C=C(C2=C(NC(C(O2)C)=O)C1)C(=O)O | C10H8ClNO4
reactant | ethyl chlorocarbonate | 2.5 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 3-amino-8-methyl-8-azabicyclo[3.2.1]octane | 3.0 g | NC1CC2CCC(C1)N2C | C8H16N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 6-chloro-3,4-dihydro-2-methyl-N-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-3-oxo-2H-1,4-benzoxazine-8-carboxamide hydrochloride | Cl.ClC=1C=C(C2=C(NC(C(O2)C)=O)C1)C(=O)NC1CC2CCC(C1)N2C | InChI=1S/C18H22ClN3O3.ClH/c1-9-17(23)21-15-6-10(19)5-14(16(15)25-9)18(24)20-11-7-12-3-4-13(8-11)22(12)2;/h5-6,9,11-13H,3-4,7-8H2,1-2H3,(H,20,24)(H,21,23);1H
